US07253197B2
3-(5-Benzoyl-thiazol-2-ylamino)-benzenesulfonamide
A mixture of 44 mg (0.13 mmol) N-Dimethylaminomethylene-3-(3-dimethylaminomethylene-thioureido)-benzenesulfonamide and 26 mg (0.13 mmol) phenacyl bromide in 0.8 ml DMF was stirred for 16 h at room temperature. 0.12 ml HCl (37%) was added and the mixture was stirred for 69 h at 100° C. After addition of 0.12 ml N,N-Diisopropylethylamine the mixture was subjected to preparative HPLC separation on reversed phase eluting with an acetonitrile/water gradient. Evaporation of the product fractions yielded 6 mg (13%) of the title compound.

reactant | N-Dimethylaminomethylene-3-(3-dimethylaminomethylene-thioureido)-benzenesulfonamide | 0.13 mmol, 44 mg | CN(C)C=NS(=O)(=O)C1=CC(=CC=C1)NC(=S)N=CN(C)C | C13H19N5O2S2
reactant | phenacyl bromide | 0.13 mmol, 26 mg | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | HCl | 0.12 ml | Cl | ClH
reactant | N,N-Diisopropylethylamine | 0.12 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
product | 3-(5-Benzoyl-thiazol-2-ylamino)-benzenesulfonamide | 6 mg, 13% | C(C1=CC=CC=C1)(=O)C1=CN=C(S1)NC=1C=C(C=CC1)S(=O)(=O)N | C16H13N3O3S2
